US08211908B2
To a solution of 3.8 g of (5-(benzyloxy)-4-(2-((tert-butoxycarbonyl)amino)ethoxy)pyridin-2-yl)methyl acetate in 91 mL of ethanol, 1.1 g of 10% palladium carbon was added, and the mixture was stirred at room temperature for 5 hours under a hydrogen atmosphere. The insoluble substance was filtered off, and the solvent was distilled off under reduced pressure. Thereto were added chloroform and diethyl ether, and the solid was filtered off to obtain 2.1 g of (4-(2-((tert-butoxycarbonyl)amino)ethoxy)-5-hydroxypyridin-2-yl)methyl acetate as a light brown solid.

reactant | (5-(benzyloxy)-4-(2-((tert-butoxycarbonyl)amino)ethoxy)pyridin-2-yl)methyl acetate | 3.8 g | C(C)(=O)OCC1=NC=C(C(=C1)OCCNC(=O)OC(C)(C)C)OCC1=CC=CC=C1 | C22H28N2O6
solvent | ethanol | 91 mL | C(C)O | C2H6O
catalyst | palladium carbon | 1.1 g | [C].[Pd]
product | (4-(2-((tert-butoxycarbonyl)amino)ethoxy)-5-hydroxypyridin-2-yl)methyl acetate | 2.1 g | C(C)(=O)OCC1=NC=C(C(=C1)OCCNC(=O)OC(C)(C)C)O | C15H22N2O6
